US04370346
A mixture of 2,3,5,6-tetrafluorotoluene (1.7 g), N-bromosuccinimide (1.9 g), dry carbon tetrachloride (10 ml) and benzoyl peroxide (0.01 g) was heated at the reflux temperature for 20 hours, cooled to the ambient temperature (ca.25° C.) filtered and the filtrate diluted with diethyl ether. The ethereal solution was washed with water, dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvents to yield 2,3,5,6-tetrafluorobenzyl bromide as a mobile colourless oil.

reactant | 2,3,5,6-tetrafluorotoluene | 1.7 g | FC1=C(C(=C(C=C1F)F)F)C | C7H4F4
reactant | N-bromosuccinimide | 1.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.01 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2,3,5,6-tetrafluorobenzyl bromide | FC1=C(CBr)C(=C(C=C1F)F)F | C7H3BrF4
